### PR TITLE
[Merged by Bors] - refactor(Topology): cleaner way to get metric spaces from emetric spaces

### PR DESCRIPTION
**Pull request by FormulaRabbit81**
Change EMetricSpace.toMetricSpaceOfDist in Mathlib/Topology/MetricSpace/Basic and PseudoEMetricSpace.toPseudoMetricSpaceOfDist in Mathlib/Topology/MetricSpace/Pseudo/Defs to require nonnegativity of given distance function rather than finiteness of old edistance.

---
- [x] depends on: #30721
- [x] depends on: #30722

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 1]
```diff
@@ -48,6 +48,53 @@ in general), and `ι` is countable.
...
+abbrev replaceDist (m : PseudoMetricSpace X) (d : X → X → ℝ) (hd : d = dist) :
+    PseudoMetricSpace X where
+  dist := d
+  dist_self := by simp [hd]
+  dist_comm := by simp [hd, dist_comm]
+  dist_triangle := by simp [hd, dist_triangle]
+  edist_dist := by simp [hd, edist_dist]
+  uniformity_dist := by simp [hd, uniformity_dist]
+  cobounded_sets := by simp [hd, cobounded_sets]
+  __ := m
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/PiNat.lean]: Do you actually need this line?
```suggestion
```

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 2]
```diff
@@ -48,6 +48,53 @@ in general), and `ι` is countable.
...
+
+lemma replaceDist_eq (m : PseudoMetricSpace X) (d : X → X → ℝ) (hd : d = dist) :
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/PiNat.lean]:
```suggestion
lemma replaceDist_eq (m : PseudoMetricSpace X) (d : X → X → ℝ) (hd) :
```
to signify it's not an assumption to be provided

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 3]
```diff
@@ -48,6 +48,53 @@ in general), and `ι` is countable.
...
+end PseudoMetricSpace
+
+namespace PseudoEMetricSpace
+
+/-- One gets a pseudometric space from an emetric space if the edistance
+is everywhere finite, by pushing the edistance to reals. We set it up so that the edist and the
+uniformity are defeq in the pseudometric space and the pseudoemetric space. In this definition, the
+distance is given separately, to be able to prescribe some expression which is not defeq to the
+push-forward of the edistance to reals. See note [reducible non-instances]. -/
+abbrev toPseudoMetricSpaceOfDist' {X : Type*} [e : PseudoEMetricSpace X] (dist : X → X → ℝ)
```
Comment (YaelDillies) [inline Mathlib/Topology/MetricSpace/PiNat.lean]: Could you try fully replacing `toPseudoMetricSpaceOfDist`? Not sure it's possible, but it would be nice if it were!

File: Mathlib/Topology/MetricSpace/PiNat.lean (hunk 1 above)
Comment (FormulaRabbit81) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: I just tried getting rid of it and everything broke. I think lean still needs to clarify that X is a pseudometric space here.

File: Mathlib/Topology/MetricSpace/PiNat.lean (hunk 3 above)
Comment (FormulaRabbit81) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: Finally managed it!

**Comment by FormulaRabbit81** [comment]
WIP

**Comment by FormulaRabbit81** [comment]
-WIP

File: Mathlib/Data/Set/Basic.lean [hunk 4]
```diff
@@ -479,6 +479,9 @@ theorem eq_empty_of_subset_empty {s : Set α} : s ⊆ ∅ → s = ∅ :=
 theorem eq_empty_of_isEmpty [IsEmpty α] (s : Set α) : s = ∅ :=
   eq_empty_of_subset_empty fun x _ => isEmptyElim x
 
+-- lemma eq_empty_of_isEmpty' (s : Set α) [IsEmpty s] : s = ∅ := by
+--   simpa using ‹IsEmpty s›
+
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Basic.lean]: Any particular reason this got moved further down the file? Either way, one of the two needs to be removed.

File: Mathlib/Topology/MetricSpace/PiNat.lean [hunk 5]
```diff
@@ -48,6 +48,29 @@ in general), and `ι` is countable.
...
 
+namespace PseudoMetricSpace
+variable {X : Type*}
+
+/-- Build a new pseudometric space from an old one where the distance uniform structure is provably
+(but typically non-definitionally) equal to some given distance structure. -/
+-- See note [forgetful inheritance]
+-- See note [reducible non-instances]
+abbrev replaceDist (m : PseudoMetricSpace X) (d : X → X → ℝ) (hd : d = dist) :
+    PseudoMetricSpace X where
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/PiNat.lean]: 1. We should have a version of this for `PseudoEMetricSpace` that replaces `edist`.
2. I think this `replaceDist` should actually replace both `dist` and `edist` simultaneously.
3. It might also make sense to have convenience versions for `MetricSpace` and `EMetricSpace` too.
4. Please add some `example`s below this which guarantee that the forgetfully inherited structures (bornology and uniformity) are unchanged from the original at `by with_reducible` transparency. Even if it already works in this PR (which I think it should), the purpose is to make sure it stays that way.

**Review by j-loreaux — COMMENTED** [review]
Looks like it will be a nice improvement, thanks.

File: Mathlib/Data/Set/Basic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Data/Set/Basic.lean]: It needs to be just after `isEmpty_coe_sort`

Comment (FormulaRabbit81) [reply Mathlib/Data/Set/Basic.lean]: Yes - I'm removing the old lemma as this one is more general

File: Mathlib/Topology/MetricSpace/PiNat.lean (hunk 5 above)
Comment (FormulaRabbit81) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: Thanks for the comments. I think I have implemented these changes other than 2 (please see if this is what you meant). I believe @YaelDillies wants to discuss 2, and I can change it if you both agree

**Comment by FormulaRabbit81** [comment]
-awaiting-author

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 6]
```diff
@@ -35,6 +35,7 @@ This file is a straight-forward adaptation of `Mathlib/Analysis/Normed/Lp/PiLp.l
 
 -/
 
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean]:
```suggestion
```

File: Mathlib/Topology/MetricSpace/PiNat.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: Indeed I disagree with

> I think this `replaceDist` should actually replace both `dist` and `edist` simultaneously.

The `replaceFoo` suit in both core and mathlib only ever replaces one field at a time. If one wants to replace several fields simultaneously, one should be using `Bar.copy` (but I don't think we need to add that here).

Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: If you only want to replace one, it's quite trivial to pass `rfl` as the proof of equality. So I don't see a strong argument here. But indeed a `.copy` that allows you to replace whatever you want would be nice as a separate feature.

Comment (YaelDillies) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: But it is also trivial AND more modular to replace dist and edist by composing two functions. If anything, the function you're suggesting should be called `replaceDistEDist` if it existed, and I claim it should be an abbrev for `replaceDist` composed with `replaceEDist`

Comment (FormulaRabbit81) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: I'll ask on Zulip and tag you both

**Comment by sgouezel** [comment]
I agree that the the replaceDist should only replace the distance, and so on for the other classes.
The file in which you've put these functions looks very strange to me, though, could you move them to a better place?
Also, there are many unrelated changes in the PR (golfing proofs, renaming variables, and so on). Could you keep only the changes related to the PR title? This will make it much easier to review.

**Comment by FormulaRabbit81** [comment]
> I agree that the the replaceDist should only replace the distance, and so on for the other classes. The file in which you've put these functions looks very strange to me, though, could you move them to a better place? Also, there are many unrelated changes in the PR (golfing proofs, renaming variables, and so on). Could you keep only the changes related to the PR title? This will make it much easier to review.

Thank you for the review. Most of these changes are a result of the improvements in Mathlib/Topology/MetricSpace/Basic.lean breaking things, which is not the main feature of the PR. For this reason, to make things easier to review, I have opened a new PR #31015 for the new feature and will keep this one for all the fixes, changing the title.

**Comment by FormulaRabbit81** [comment]
-awaiting-author

File: Mathlib/Topology/MetricSpace/PiNat.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Topology/MetricSpace/PiNat.lean]: Conclusion seems to be in my favor, PR has been adapted accordingly (and the content moved to #31015

**Comment by sgouezel** [comment]
Could you explain in the PR description the content of the PR?

**Comment by FormulaRabbit81** [comment]
-awaiting-author

File: Mathlib/Topology/MetricSpace/Basic.lean [hunk 7]
```diff
@@ -73,17 +73,17 @@ uniformity are defeq in the metric space and the emetric space. In this definiti
...
     MetricSpace α :=
-  @MetricSpace.ofT0PseudoMetricSpace _
-    (PseudoEMetricSpace.toPseudoMetricSpaceOfDist dist edist_ne_top h) _
+  letI := PseudoEMetricSpace.toPseudoMetricSpaceOfDist dist dist_nonneg h
+  MetricSpace.ofT0PseudoMetricSpace _
 
 /-- One gets a metric space from an emetric space if the edistance
 is everywhere finite, by pushing the edistance to reals. We set it up so that the edist and the
 uniformity are defeq in the metric space and the emetric space. -/
 def EMetricSpace.toMetricSpace {α : Type u} [EMetricSpace α] (h : ∀ x y : α, edist x y ≠ ⊤) :
```
Comment (sgouezel) [inline Mathlib/Topology/MetricSpace/Basic.lean]:
```suggestion
abbrev EMetricSpace.toMetricSpace {α : Type u} [EMetricSpace α] (h : ∀ x y : α, edist x y ≠ ⊤) :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
